US05389614
4b. [5-(S)-(3-Guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetyl-β-alanine
1.3 g of [5-(S)-(3-guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetyl-β-alanine tert-butyl ester are dissolved in 15 ml of 90% strength aqueous trifluoroacetic acid. The mixture is left to stand at room temperature for one hour and concentrated. The residue is dissolved in water and extracted by shaking 3 times with diethyl ether. The aqueous solution is filtered off to remove the insoluble material and freeze-dried.

reactant | [5-(S)-(3-guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetyl-β-alanine tert-butyl ester | 1.3 g | C(C)(C)(C)OC(CCN(C(C)=O)N1C(N[C@H](C1=O)CCCNC(=N)N)=O)=O | C16H28N6O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | [5-(S)-(3-Guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetyl-β-alanine | N(C(=N)N)CCC[C@H]1C(N(C(N1)=O)N(CCC(=O)O)C(C)=O)=O | C12H20N6O5
